US07595339B2
Dissolve 5-chloromethyl-nicotinonitrile (4.9 mg, 0.032 mmol) in 2.0M NH3 in MeOH (1 mL). Transfer this solution to a pressure tube. Heat the reaction solution at 80° C. for 2 h. Rotary evaporate the reaction solution (40° C.) to yield 5.1 mg of crude 5-aminomethyl-nicotinonitrile as a yellow oil. MS (m/e): 134.00 (M+1).

reactant | 5-chloromethyl-nicotinonitrile | 0.032 mmol, 4.9 mg | ClCC=1C=NC=C(C#N)C1 | C7H5ClN2
reactant | NH3 | 2.0M | N | H3N
solvent | MeOH | 1 mL | CO | CH4O
product | 5-aminomethyl-nicotinonitrile | 5.1 mg | NCC=1C=NC=C(C#N)C1 | C7H7N3
